US07435833B2
Benzyl chloroformate (4 mL, 28.02 mmol) was added to a stirred and cooled (0° C.) solution of the product of Example 5C (14.01 mmol) and diisopropylethyl amine (7.5 mL, 42.03 mmol) in dry dichloromethane (50 mL). After the addition, the solution was warmed to room temperature and stirred for another three hours. It was quenched with NaHCO3 solution. The phases were separated and the organic phase was washed with NaHSO4 solution brine, dried (Na2SO4), filtered, and evaporated. The crude [5-(tert-Butyl-dimethyl-silanyloxy)-cyclooctyl]-carbamic acid benzyl ester was isolated as an oil and was used without further purification. Tetrabutyl ammonium fluoride (42 mL, 1 M in tetrahydrofuran, 42.03 mmol) was added to a solution of crude [5-(tert-Butyl-dimethyl-silanyloxy)-cyclooctyl]-carbamic acid benzyl ester (about 14.01 mmol) in tetrahydrofuran (35 mL). The resulting solution was stirred for two hours at 23° C. before it was partitioned with diethyl ether and water. The organic layer was washed with brine, dried (MgSO4), filtered, and evaporated. The residue was purified over silica gel using 5-50% ethyl acetate in hexanes to give (5-Hydroxy-cyclooctyl)-carbamic acid benzyl ester as an oil. (5-Hydroxy-cyclooctyl)-carbamic acid benzyl ester (2.68 g, 9.66 mmol) was stirred in the presence of Pd(OH)2/C (0.5 g) in methanol under H2 (balloon) for two hours at 23° C. before it was filtered through a pad of Celite and the solvent was evaporated. The title compound was isolated as an oil and used without further purification.

reactant | Tetrabutyl ammonium fluoride | 42.03 mmol, 1 M, 42 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | [5-(tert-Butyl-dimethyl-silanyloxy)-cyclooctyl]-carbamic acid benzyl ester | about 14.01 mmol | C(C1=CC=CC=C1)OC(NC1CCCC(CCC1)O[Si](C)(C)C(C)(C)C)=O | C22H37NO3Si
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | (5-Hydroxy-cyclooctyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1CCCC(CCC1)O)=O | C16H23NO3
